US07501518B2
Following General Procedure A: 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (1.6 g, 6.0 mmol) was reacted with 2-bromomethyl-5-cyano-benzoic acid methyl ester (1.5 g, 6.0 mmol) to give 5-cyano-2-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-benzoic acid methyl ester (2.05 g, 78%), as a pale-yellow solid.

reactant | 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 6.0 mmol, 1.6 g | CC=1C(=NC=CC1)C1NC(CCC1)C1=NC=CC=C1C | C17H21N3
reactant | 2-bromomethyl-5-cyano-benzoic acid methyl ester | 6.0 mmol, 1.5 g | COC(C1=C(C=CC(=C1)C#N)CBr)=O | C10H8BrNO2
product | 5-cyano-2-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-benzoic acid methyl ester | 2.05 g, 78% | COC(C1=C(C=CC(=C1)C#N)CN1C(CCCC1C1=NC=CC=C1C)C1=NC=CC=C1C)=O | C27H28N4O2
